US09353107B2
Step-iii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide was hydrolyzed with lithium hydroxide (65 mg, 1.56 mmol) in THF/Methanol/water (10/3/2 mL). This yielded 22 mg (8.4% yield) of pure compound after purification by flash chromatography. 1H NMR (DMSO-d6, 300 MHz): δ 11.9 (s, 1H), 9.07 (s, 1H), 8.519-8.515 (d, 2H), 7.827-8.23 (d, 2H), 7.56-7.43 (m, 3H), 7.21-7.04 (m, 4H), 5.36 (s, 2H), 3.90 (s, 3H), 3.03 (s, 3H), 2.21-2.17 (d, 6H). MS: m/z=520.1 (M+1), HPLC: 95.74% (Method-B).

reactant | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C34H32FN5O5S2
reactant | lithium hydroxide | 1.56 mmol, 65 mg | [OH-].[Li+]
solvent | THF Methanol water | 2 mL | C1CCOC1.CO.O
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide | 22 mg, 8.4% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)C)C=CC1 | C27H26FN5O3S
